US06835732B2
5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-piperazin-1-yl-benzothiazol-2-yl)-amide
To a solution of 4-{4-methoxy-2-[(5-methyl-thiophene-2-carbonyl)-amino]-benzothiazol-7-yl}-piperazine-1-carboxylic acid benzyl ester (300 mg, 0.57 mmol) in dichloromethane (5 ml) were added boron trifluoride diethyl etherate (0.72 ml, 5.7 mmol) and ethane thiol (1.2 ml, 17 mmol) and the mixture stirred for 36 h. The volatile components are evaporated and the residue codistilled twice with toluene. The residue was dissolved in dichloromethane (25 ml), extracted with 1N aqueous sodium carbonate and the organic phase dryed with Na2SO4. Removal of the solvent and flash chromatography (silica, eluent CH2Cl2/MeOH/aqu. NH4OH 100:10:1) afforded the title compound as light yellow solid (58%), MS: m/e=389 (M+H+).

reactant | 4-{4-methoxy-2-[(5-methyl-thiophene-2-carbonyl)-amino]-benzothiazol-7-yl}-piperazine-1-carboxylic acid benzyl ester | 0.57 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C=2SC(=CC2)C)OC | C26H26N4O4S2
reactant | boron trifluoride diethyl etherate | 5.7 mmol, 0.72 ml | B(F)(F)F.CCOCC
reactant | ethane thiol | 17 mmol, 1.2 ml | C(C)S | C2H6S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-Methyl-thiophene-2-carboxylic acid (4-methoxy-7-piperazin-1-yl-benzothiazol-2-yl)-amide | 58% | COC1=CC=C(C2=C1N=C(S2)NC(=O)C=2SC(=CC2)C)N2CCNCC2 | C18H20N4O2S2
